US06897231B2
A. 1-Perhydro-2H-pyran-2-yl-3-[3-(3-pyridylcarbonylamino)phenyl]-1H-indazole-5-carboxamide
To a solution of 3-(3-aminophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile (0.150 g, 0.47 mmol) in tetrahydrofuran (5 mL), was added nicotinoyl chloride hydrochloride (0.167 mg, 0.94 mmol) and triethyl amine (0.327 mL, 2.35 mmol). After stirring at room temperature overnight, the crude mixture was partitioned between ethyl acetate and water. The crude compound was isolated as a gummy solid. The yield was not calculated: ES-MS (m/z) 424 [M+H]+.

reactant | 3-(3-aminophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile | 0.47 mmol, 0.150 g | NC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)C#N)C1OCCCC1 | C19H18N4O
reactant | nicotinoyl chloride hydrochloride | 0.94 mmol, 0.167 mg | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | triethyl amine | 2.35 mmol, 0.327 mL | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 1-Perhydro-2H-pyran-2-yl-3-[3-(3-pyridylcarbonylamino)phenyl]-1H-indazole-5-carboxamide | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C(=O)N)C1=CC(=CC=C1)NC(=O)C=1C=NC=CC1 | C25H23N5O3
